US04473561
Crude α-hydroxyethylphosphinic acid (57.7 g; 0.524 mol) prepared as in Example 1 was dissolved in methanol (290 ml). α-Naphthylethylamine (90.2 g; 0.575 mol) was added thereto at a temperature of not more than 50° C. while stirring. The reaction mixture was kept at a temperature of 25° to 30° C. for 30 minutes, followed by distillation of methanol to give a foamy substance. To the foamy substance, methanol (60 ml) and acetonitrile (600 ml) were added, followed by vigorous stirring, whereby crystals were precipitated. To the resultant mixture, methanol (130 ml) was added, followed by heating with reflux. After cooling, precipitated crystals were collected by filtration to give (±)-α-naphthylethylammonium α-hydroxyethylphosphinate (Compound No. 22) (56.0 g). M.P., 164° C. Yield, 37.8%. The mother liquor was concentrated, and the residue was recrystallized from a mixture of acetonitrile (400 ml) and methanol (105 ml) to give (±)-α-naphthylethylammonium α-hydroxyethylphosphinate (23.0 g). The thus prepared (±)-α-naphthylethylammonium α-hydroxyethylphosphinate (73.6 g; 0.2616 mol) was dissolved in distilled water (500 ml), cation exchange resin (Dowex 50W ×8H+ type; 600 g) was added thereto, and the resultant mixture was stirred for 40 minutes. After separation of the resin, the filtrate was concentrated to give pure α-hydroxyethylphosphinic acid (Compound No. 1) (27.0 g). Yield, 93.8%. No peak due to any impurity was recognized by NMR.

reactant | α-hydroxyethylphosphinic acid | 0.524 mol, 57.7 g | OC(C)P(O)=O | C2H7O3P
reactant | α-Naphthylethylamine | 0.575 mol, 90.2 g | C1(=CC=CC2=CC=CC=C12)C(C)N | C12H13N
reactant | acetonitrile | 600 ml | C(C)#N | C2H3N
solvent | methanol | 290 ml | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
product | (±)-α-naphthylethylammonium α-hydroxyethylphosphinate | 56.0 g | OC(C)P([O-])=O.C1(=CC=CC2=CC=CC=C12)C(C)[NH3+] | InChI=1S/C12H13N.C2H7O3P/c1-9(13)11-8-4-6-10-5-2-3-7-12(10)11;1-2(3)6(4)5/h2-9H,13H2,1H3;2-3,6H,1H3,(H,4,5)
